### PR TITLE
[Merged by Bors] - feat(MeasureTheory.MeasurableSpace.CountablyGenerated): add SeparatesPoints and related theorems

### PR DESCRIPTION
**Pull request by Felix-Weilacher**
the goal of the PR is to clarify the relationship between the following closely related assumptions on a measurable space:
* Being countably generated (`CountablyGenerated`)
* Separating points (`SeparatesPoints`)
* Having a countable separating family of measurable sets (`HasCountableSeparatingOn _ MeasurableSet univ`) 
* Having singletons be measurable (`MeasurableSingletonClass`)

It defines `SeparatesPoints` and registers all implications between combinations of these properties as instances (or rather a minimal set needed to deduce all others). 

It also proves an optimal theorem regarding when a measurable space appears as an induced subspace of the Cantor Space `Nat -> Bool`. This will be used to generalize topological assumptions to measure theoretic ones in some theorems in `MeasureTheory.Constructions.Polish`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 1]
```diff
@@ -1986,30 +1993,110 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
...
+    ∃ f : α → ℕ → Bool, Measurable f ∧ Injective f := by
+  rcases exists_countablyGenerated_le_of_hasCountableSeparatingOn α with ⟨m', _, _, m'le⟩
+  rcases @measurableEquiv_nat_bool_of_countablyGenerated _ m' _ _ with ⟨s, ⟨f⟩⟩
+  refine' ⟨Subtype.val ∘ f, _, Subtype.coe_injective.comp (MeasurableEquiv.injective _)⟩
+  apply measurable_subtype_coe.comp
+  exact f.measurable_toFun.mono m'le (by rfl)
+
+variable {α}
+
+theorem measurableSingletonClass_of_hasCountableSeparatingPoints
```
Comment (Felix-Weilacher) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:2093]: This should be an instance. However, making it one, even with priority 1, causes timeouts in in BorelSpace/Basic.lean

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 2]
```diff
@@ -99,6 +99,128 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
...
+  rw [← he, generateFrom_countableGeneratingSet]
+
+variable {α}
+
+section SeparatesPoints
+
+/-- We say that a measurable space separates points if for any two distinct points,
+there is a measurable set containing one but not the other. -/
+class SeparatesPoints (α : Type*) [m : MeasurableSpace α] : Prop where
+  separates : ∀ x y : α, (∀ s, MeasurableSet s → (x ∈ s ↔ y ∈ s)) → x = y
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:118]: Can you state this definition in a way that mimics `Set.SeparatesPoints`? That is, with the contraposition of that implication. We have `Set.SeparatesPoints`, `Subalgebra.SeparatesPoints` and now `MeasurableSpace.SeparatesPoints` and they are all essentially the same statement, more or less specialized. It would be nice if they looked similar.

Also please add API for the definition. For example, for two points x, y not equal, we want a definition that gives us a set with x in it and not y, and a lemma stating that it is measurable.

If we change the definition of SeparatesPoints at I suggest, we will also want your current formulation of `separates` as a lemma.

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 3]
```diff
@@ -99,6 +99,128 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
...
+
+open scoped Classical
+
+open Function
+
+/-- If a measurable space is countably generated and separates points, it is measure equivalent
+to some some subset of the Cantor space `ℕ → Bool` (equipped with the product sigma algebra). -/
+theorem measurableEquiv_nat_bool_of_countablyGenerated [MeasurableSpace α]
+    [CountablyGenerated α] [SeparatesPoints α] :
+    ∃ s : Set (ℕ → Bool), Nonempty (α ≃ᵐ s) := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:176]: What you are really doing here is construct a `MeasurableEmbedding` from `α` to `ℕ → Bool`. Could you add a definition for that embedding? (extract your construction of `f` from the proof).
Then that theorem is simply the statement that a measurable embedding is an equivalence to its range (and hence the theorem may not be needed).

**Review by RemyDegenne — COMMENTED** [review]
Thanks! My main comment is that you always state that there exists some object with some properties, but you should almost always add a definition for the object instead, and then add lemmas that assert that the def has the properties. It's much easier to use in downstream code that way.

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean (hunk 3 above)
Comment (Felix-Weilacher) [reply Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:176]: This is incorrect. There is no guarantee that the set `s` in this theorem will be measurable. In fact this will happen if and only if `\alpha` is standard Borel.

Comment (Felix-Weilacher) [reply Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:176]: I will add to the docstring to clarify this, though.

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean (hunk 2 above)
Comment (Felix-Weilacher) [reply Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:118]: Hmm, I was intentionally mimicking `HasCountableSeparatingOn`, and I do like that this way of writing it involves less contraposing down the line. Do you still think I should change it?

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean (hunk 3 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:176]: You are right, sorry for the mistake.
Anyway, my main point is about the code style and not the math: in the proof you are constructing a function which is measurable and injective as a step towards building the equivalence and putting all that in an exists statement. In the next lemma, you are getting the equivalence by using choice and getting a measurable injective function from that.

The better alternative I am trying to describe is something like the following (with better names, and possibly with a different def for e that does not go through exists_seq_generateFrom):
```
noncomputable
def e [MeasurableSpace α] [CountablyGenerated α] [SeparatesPoints α] :=
  (exists_seq_generateFrom α).choose

lemma generateFrom_range_e [m : MeasurableSpace α] [CountablyGenerated α] [SeparatesPoints α] :
  m = generateFrom (range (e α)) := (exists_seq_generateFrom α).choose_spec

noncomputable
def f [MeasurableSpace α] [CountablyGenerated α] [SeparatesPoints α]
    (a : α) (n : ℕ) : Bool := a ∈ e α n

lemma injective_f [MeasurableSpace α] [CountablyGenerated α] [h : SeparatesPoints α] :
    Injective (f α) := by
  intro x y hxy
  rw [generateFrom_range_e α] at h
  apply separating_of_generateFrom (range (e α))
  rintro - ⟨n, rfl⟩
  rw [← decide_eq_decide]
  exact congr_fun hxy n

lemma measurable_f [MeasurableSpace α] [CountablyGenerated α] [SeparatesPoints α] :
    Measurable (f α) := by
  rw [measurable_pi_iff]
  refine fun n ↦ measurable_to_bool ?_
  simp only [preimage, mem_singleton_iff, f, Bool.decide_iff, setOf_mem_eq]
  simp_rw [generateFrom_range_e α]
  exact measurableSet_generateFrom $ mem_range_self _

/-- If a measurable space is countably generated and separates points, it is measure equivalent
to some some subset of the Cantor space `ℕ → Bool` (equipped with the product sigma algebra). -/
theorem measurableEquiv_nat_bool_of_countablyGenerated [MeasurableSpace α]
    [CountablyGenerated α] [SeparatesPoints α] :
    ∃ s : Set (ℕ → Bool), Nonempty (α ≃ᵐ s) := by
  use range (f α), Equiv.ofInjective _ (injective_f α)
  · apply Measurable.subtype_mk
    exact measurable_f α
  simp_rw [generateFrom_range_e α]
  apply measurable_generateFrom
  rintro _ ⟨n, rfl⟩
  rw [← Equiv.image_eq_preimage _ _]
  refine' ⟨{y | y n}, by measurability, _⟩
  rw [← Equiv.preimage_eq_iff_eq_image]
  simp[f]

/-- If a measurable space admits a countable sequence of measurable sets separating points,
it admits a measurable injection into the Cantor space `ℕ → Bool`
(equipped with the product sigma algebra). -/
theorem measurable_injection_nat_bool_of_hasCountableSeparatingOn [MeasurableSpace α]
    [HasCountableSeparatingOn α MeasurableSet univ] :
    ∃ f : α → ℕ → Bool, Measurable f ∧ Injective f := by
  rcases exists_countablyGenerated_le_of_hasCountableSeparatingOn α with ⟨m', _, _, m'le⟩
  refine' ⟨f α, _, injective_f α⟩
  exact (measurable_f α).mono m'le (by rfl)
```

Comment (Felix-Weilacher) [reply Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:176]: I agree with making `e` a definition; `exists_seq_generateFrom` was from awhile ago, before `countableGeneratingSet` existed. 

`f`, on the other hand, seems pretty specific to this proof. Perhaps it and the lemmas about it should be `private`?

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean (hunk 2 above)
Comment (Felix-Weilacher) [reply Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:118]: Yes, I understand and apologize for not adding more supporting lemmas initially. I'll get right on that.

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 4]
```diff
@@ -99,6 +117,140 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
...
 
+section SeparatesPoints
+
+/-- We say that a measurable space separates points if for any two distinct points,
+there is a measurable set containing one but not the other. -/
+class SeparatesPoints (α : Type*) [m : MeasurableSpace α] : Prop where
+  separates : ∀ x y : α, (∀ s, MeasurableSet s → (x ∈ s → y ∈ s)) → x = y
+
+theorem separatesPoints_def [MeasurableSpace α] [hs : SeparatesPoints α] {x y : α}
+    (h : (∀ s, MeasurableSet s → (x ∈ s → y ∈ s))) : x = y := hs.separates _ _ h
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:128]:
```suggestion
    (h : ∀ s, MeasurableSet s → (x ∈ s → y ∈ s)) : x = y := hs.separates _ _ h
```

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 5]
```diff
@@ -99,6 +117,140 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
...
+
+theorem exists_measurableSet_of_neq [MeasurableSpace α] [SeparatesPoints α] {x y : α}
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:130]:
```suggestion
theorem exists_measurableSet_of_ne [MeasurableSpace α] [SeparatesPoints α] {x y : α}
```

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 6]
```diff
@@ -99,6 +117,140 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
...
+    @SeparatesPoints _ m' := @SeparatesPoints.mk _ m' fun _ _ hxy ↦
+    @SeparatesPoints.separates _ m hsep _ _ fun _ hs ↦ hxy _ (h _ hs)
+
+instance (priority := 100) Subtype.separatesPoints [MeasurableSpace α] [h : SeparatesPoints α]
+    {s : Set α} : SeparatesPoints s :=
+  ⟨fun _ _ hxy ↦ Subtype.val_injective $ h.1 _ _ fun _ ht ↦ hxy _ $ measurable_subtype_coe ht⟩
+
+instance (priority := 100) separatesPoints_of_measurableSingletonClass [MeasurableSpace α]
+    [MeasurableSingletonClass α] : SeparatesPoints α := by
+  refine' ⟨fun x y h ↦ _⟩
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:155]:
```suggestion
  refine ⟨fun x y h ↦ ?_⟩
```
refine' was used by mathport to stay close to lean3 syntax, but refine is preferred now.

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 7]
```diff
@@ -99,6 +117,140 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
...
+  specialize h _ (MeasurableSet.singleton x)
+  simp_rw [mem_singleton_iff, forall_true_left] at h
+  exact h.symm
+
+instance(priority := 100) [MeasurableSpace α] {s : Set α}
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:160]:
```suggestion
instance (priority := 100) [MeasurableSpace α] {s : Set α}
```

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 8]
```diff
@@ -99,6 +117,140 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
...
+    [CountablyGenerated α] [SeparatesPoints α] :
+    ∃ s : Set (ℕ → Bool), Nonempty (α ≃ᵐ s) := by
+  use range (map_nat_bool_of_countablyGenerated α), Equiv.ofInjective _ $
+    injective_map_nat_bool_of_countablyGenerated _,
+    Measurable.subtype_mk $ measurable_map_nat_bool_of_countablyGenerated _
+  simp_rw [← generateFrom_natGeneratingSequence α]
+  apply measurable_generateFrom
+  rintro _ ⟨n, rfl⟩
+  rw [← Equiv.image_eq_preimage _ _]
+  refine' ⟨{y | y n}, by measurability, _⟩
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:227]:
```suggestion
  refine ⟨{y | y n}, by measurability, ?_⟩
```

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 9]
```diff
@@ -99,6 +117,140 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
...
+  simp[map_nat_bool_of_countablyGenerated]
+
+/-- If a measurable space admits a countable sequence of measurable sets separating points,
+it admits a measurable injection into the Cantor space `ℕ → Bool`
+(equipped with the product sigma algebra). -/
+theorem measurable_injection_nat_bool_of_hasCountableSeparatingOn [MeasurableSpace α]
+    [HasCountableSeparatingOn α MeasurableSet univ] :
+    ∃ f : α → ℕ → Bool, Measurable f ∧ Injective f := by
+  rcases exists_countablyGenerated_le_of_hasCountableSeparatingOn α with ⟨m', _, _, m'le⟩
+  refine' ⟨map_nat_bool_of_countablyGenerated α, _, injective_map_nat_bool_of_countablyGenerated _⟩
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:238]:
```suggestion
  refine ⟨map_nat_bool_of_countablyGenerated α, ?_, injective_map_nat_bool_of_countablyGenerated _⟩
```
Here we see the advantage of `refine` over `refine'`: we see which hole is inferred and which remains to prove.

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 10]
```diff
@@ -99,6 +117,140 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
...
+  exact (measurable_map_nat_bool_of_countablyGenerated _).mono m'le (by rfl)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:239]:
```suggestion
  exact (measurable_map_nat_bool_of_countablyGenerated _).mono m'le le_rfl
```

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 11]
```diff
@@ -99,6 +117,140 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
...
+variable {α}
+
+--TODO: Make this an instance
+theorem measurableSingletonClass_of_hasCountableSeparatingOn
+    [MeasurableSpace α] [HasCountableSeparatingOn α MeasurableSet univ] :
+    MeasurableSingletonClass α := by
+  rcases measurable_injection_nat_bool_of_hasCountableSeparatingOn α with ⟨f, fmeas, finj⟩
+  refine' ⟨fun x ↦ _⟩
+  rw [← finj.preimage_image {x}, image_singleton]
+  exact fmeas $ MeasurableSet.singleton _
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:250]: This theorem is also about the function for which you added a def. Here is a proposition for a proof that uses it directly:
```suggestion
    MeasurableSingletonClass α where
  measurableSet_singleton x := by
    rcases exists_countablyGenerated_le_of_hasCountableSeparatingOn α with ⟨m', _, _, m'le⟩
    rw [← (injective_map_nat_bool_of_countablyGenerated _).preimage_image {x}, image_singleton]
    exact (measurable_map_nat_bool_of_countablyGenerated α).mono m'le le_rfl
      $ MeasurableSet.singleton _
```

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean [hunk 12]
```diff
@@ -99,6 +117,140 @@ instance [MeasurableSpace α] [CountablyGenerated α] [MeasurableSpace β] [Coun
...
+  exact hxy _ (measurableSet_generateFrom hs).compl
+
+open scoped Classical
+
+open Function
+
+/-- A map from a measurable space to the Cantor space `ℕ → Bool` induced by a countable
+sequence of sets generating the measurable space. -/
+noncomputable
+def map_nat_bool_of_countablyGenerated [MeasurableSpace α] [CountablyGenerated α] (x : α) (n : ℕ) :
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:193]: Perhaps name it `map_nat_bool` instead to shorten the name, omitting `of_contablyGenerated`? (only if you don't expect a similar map to be useful under different hypotheses).

**Review by RemyDegenne — COMMENTED** [review]
Thanks! Here are a few minor comments.

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean (hunk 12 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean:193]: Actually I just realized that since it is a def, the name I suggest should not be `map_nat_bool` but `mapNatBool`.

File: Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean (hunk 11 above)
Comment (Felix-Weilacher) [reply Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean]: The original proof seems more straightforward to me, mostly because the proposed one repeats a lot of the proof of `measurable_injection_nat_bool_of_hasCountableSeparatingOn` anyways.

Comment (Felix-Weilacher) [reply Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean]: The rest of the suggestions have been implemented, thanks again!

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/MeasurableSpace/CountablyGenerated.lean]: Fine by me. I agree that my proof repeats the other one quite a bit.

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+
